US04898871
A mixture of ethyl 3-bromo-propionate(25.8g), 2,6-dimethyl-piperidine (30 g) and ethanol (40 cc) is heated for 2 hours under reflux. The reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) and the residue is taken up in 5N sodium hydroxide solution (30 cc) and then extracted with methylene chloride (3×50 cc). The organic phase is dried over magnesium sulphate, filtered, and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. Ethyl 4-(2,6-dimethyl-1-piperidyl)butyrate(29 g) is thus obtained as an oil which can be employed in the subsequent synthesis without purification.

reactant | ethyl 3-bromo-propionate | 25.8g | BrCCC(=O)OCC | C5H9BrO2
reactant | 2,6-dimethyl-piperidine | 30 g | CC1NC(CCC1)C | C7H15N
reactant | ethanol | 40 cc | C(C)O | C2H6O
product | Ethyl 4-(2,6-dimethyl-1-piperidyl)butyrate | 29 g | CC1N(C(CCC1)C)CCCC(=O)OCC | C13H25NO2
